US05602132
A solution of 21.4 g of bromoacetophenone is added to 90 ml of ethanol at 0° C., followed by slow addition of a solution of 5 g of sodium thiomethoxide in 25 ml of water. The reaction medium is stirred for one hour at 0° C. and then for 2 hours at room temperature, and is subsequently poured on to 500 ml of ice-water and extracted with twice 200 ml of ethyl ether. The ether phases are combined and washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulphate and then evaporated to dryness. The residue is distilled to give 2-(methylthio)acetophenone.

reactant | bromoacetophenone | 21.4 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | ethanol | 90 ml | C(C)O | C2H6O
reactant | sodium thiomethoxide | 5 g | C[S-].[Na+]
solvent | water | 25 ml | O | H2O
product | 2-(methylthio)acetophenone | Yield: 74% | CSCC(=O)C1=CC=CC=C1 | C9H10OS
